US09108999B2
Preparation of (S)-2-[[(2S,3S,4R,5R)-5-(2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl)-2,4-difluoro-3-hydroxy-4-methyl-tetrahydro-furan-2-ylmethoxy]-(naphthalen-1-yloxy)-phosphorylamino]-propionic acid isopropyl ester
To a solution of chiral 1-((2R,3R,4S,5S)-3,5-difluoro-4-hydroxy-5-(hydroxymethyl)-3-methyltetrahydrofuran-2-yl)pyrimidine-2,4(1H,3H)-dione (150 mg, 539 μmol) prepared in Preparation 6 in THF (24 ml) was added a THF solution (Aldrich, 1 M) of tert-butylmagnesium chloride (1.35 mL, 1.35 mmol) dropwise. The mixture was stirred at room temperature for 15 min, followed by the addition of THF solution (0.5 M) of (2S)-isopropyl 2-(chloro(naphthalen-1-yloxy)phosphorylamino)propanoate (2.7 mL, 1.35 mmol). The reaction mixture was stirred at room temperature for 1 h, then additional THF solution (Aldrich, 1 M) of tert-butylmagnesium chloride (0.68 mL, 0.68 mmol) and THF solution (0.5 M) of (2S)-isopropyl 2-(chloro(naphthalen-1-yloxy)phosphorylamino)propanoate (1.35 mL, 0.68 mmol) were added. The reaction mixture was then stirred at room temperature for 3 h. Methanol (6 mL) was added to quench the reaction. The mixture was purified by flash chromatography (silica gel, 0-15% MeOH in DCM) and dried in vacuo to give the title compound as a white solid (0.2 g, 62%).

reactant | 1-((2R,3R,4S,5S)-3,5-difluoro-4-hydroxy-5-(hydroxymethyl)-3-methyltetrahydrofuran-2-yl)pyrimidine-2,4(1H,3H)-dione | 539 μmol, 150 mg | F[C@]1([C@@H](O[C@@]([C@H]1O)(CO)F)N1C(NC(C=C1)=O)=O)C | C10H12F2N2O5
reactant | tert-butylmagnesium chloride | 1.35 mmol, 1.35 mL | C(C)(C)(C)[Mg]Cl
reactant | (2S)-isopropyl 2-(chloro(naphthalen-1-yloxy)phosphorylamino)propanoate | 1.35 mmol, 2.7 mL | ClC1=C(C2=CC=CC=C2C=C1)OP(=O)=N[C@H](C(=O)OC(C)C)C | C16H17ClNO4P
reactant | tert-butylmagnesium chloride | 0.68 mmol, 0.68 mL | C(C)(C)(C)[Mg]Cl
reactant | (2S)-isopropyl 2-(chloro(naphthalen-1-yloxy)phosphorylamino)propanoate | 0.68 mmol, 1.35 mL | ClC1=C(C2=CC=CC=C2C=C1)OP(=O)=N[C@H](C(=O)OC(C)C)C | C16H17ClNO4P
reactant | Methanol | 6 mL | CO | CH4O
solvent | THF | 24 ml | C1CCOC1 | C4H8O
solvent | THF | 0.5 M | C1CCOC1 | C4H8O
solvent | THF | 1 M | C1CCOC1 | C4H8O
solvent | THF | 0.5 M | C1CCOC1 | C4H8O
solvent | THF | 1 M | C1CCOC1 | C4H8O
product | (S)-2-[[(2S,3S,4R,5R)-5-(2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl)-2,4-difluoro-3-hydroxy-4-methyl-tetrahydro-furan-2-ylmethoxy]-(naphthalen-1-yloxy)-phosphorylamino]-propionic acid isopropyl ester | 0.2 g, 62% | C(C)(C)OC([C@H](C)N=P(=O)OC1=C(C=CC2=CC=CC=C12)OC[C@]1(O[C@H]([C@]([C@@H]1O)(C)F)N1C(NC(C=C1)=O)=O)F)=O | C26H28F2N3O9P
